*BZG03C20 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*20V 3W Si Zener pkg:DO214 1,2
.SUBCKT BZG03C20 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  19.47
.MODEL DF D (IS=15.1N RS=14M N=1.7 CJO=158P VJ=1 M=0.33 TT=50.1N)
.MODEL DR D (IS=37.5U RS=1.32 N=3)
.ENDS